US05808062
3-[Bis(2-naphthalenylmethyl)amino]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method D using 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride (0.250 g, 1.04 mmol), 1% acetic acid in dimethylformamide (10 mL), 2-naphthaldehyde (0.407 g, 2.60 mmol), sodium cyanoborohydride (0.164 g, 2.60 mmol). m.p. dec. 209; 1H NMR (250 MHz, DMSO-d6) δ 4.46 (s, 4 H), 6.38 (s, 1 H), 7.44 (m, 8H), 7.77 (m, 13H).

reactant | 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride | 1.04 mmol, 0.250 g | Cl.NC=1C(OC(=CC1O)C1=CC=CC=C1)=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-naphthaldehyde | 2.60 mmol, 0.407 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium cyanoborohydride | 2.60 mmol, 0.164 g | C(#N)[BH3-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[Bis(2-naphthalenylmethyl)amino]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1=C(C=CC2=CC=CC=C12)CN(C=1C(OC(=CC1O)C1=CC=CC=C1)=O)CC1=CC2=CC=CC=C2C=C1 | C33H25NO3
